US05136868
A stirred solution of 4.7 grams (0.22 mole) of 1-(4-chloro-2-fluorophenyl)-1,4-dihydro-5H-tetrazole, 4.0 grams (0.028 mole) of 3-fluoropropyl bromide and 4.0 grams (0.028 mole) of potassium carbonate in 60 ml of dimethylformamide was heated at 60° C. for 16 hours. The reaction mixture was poured into water and the mixture extracted with diethyl ether. The combined ether extract was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was dissolved in methylene chloride and passed through a pad of silica gel. The eluate was concentrated under reduced pressure to yield 3.5 grams of 1-(4-chloro-2-fluorophenyl-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one; m.p. 62°-63° C. The reaction was repeated several times.

reactant | 1-(4-chloro-2-fluorophenyl)-1,4-dihydro-5H-tetrazole | 0.22 mole, 4.7 grams | ClC1=CC(=C(C=C1)N1N=NNC1)F | C7H6ClFN4
reactant | 3-fluoropropyl bromide | 0.028 mole, 4.0 grams | FCCCBr | C3H6BrF
reactant | potassium carbonate | 0.028 mole, 4.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-fluorophenyl-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one | ClC1=CC(=C(C=C1)N1N=NN(C1=O)CCCF)F | C10H9ClF2N4O
